US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-phenyl ester
The title compound was prepared in 39% yield as an oil using methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester and isoindole-1,3-dione. NMR (400 MHz; CDCl3): δ 2.98 (t, 2H), 3.41 (br s, 2H), 3.89 (t, 3H), 7.04 (br d, 2H), 7.20–7.40 (m, 7H), 7.68–7.71 (m, 2H), 7.80–7.83 (m, 2H); HPLC-MS: m/z=401.1 (M+1); Rt=4.41 min.

reactant | methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester | OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H17NO3
reactant | isoindole-1,3-dione | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
product | Methyl-phenyl-carbamic acid 4-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-phenyl ester | 39% yield | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C24H20N2O4
